US20010049385A1
5-[2-(4-Fluorobenzyl)benzyloxymethyl]-4,5,6,7-tetrahydro-1H-benzimidazole
A solution of a mixture of 5-[2-(4-fluorobenzyl)benzyloxymethyl]1-triphenylmethyl-4,5,6,7-tetrahydro-1H-benzimidazole and 5-[2-(4-fluorobenzyl)benzyloxymethyl]-3-triphenylmethyl-4,5,6,7-tetrahydro-3H-benzimidazole (0.62 g, 1.0 mmol) in water (0.6 ml) and glacial acetic acid (5 ml) was heated to 90° C. for 2.5 h. The solvent was removed in vacuo. The residue was dissolved in ethyl acetate (50 ml). A 3.5 M solution of hydrogen chloride in ethyl acetate (0.6 ml, 2.1 mmol) was added. The solvent was removed in vauco. The residue was dissolved in ethyl acetate (30 ml). A precipitation appeared, which was isolated to give 235 mg of the hydrochloride salt of the title compound.

reactant | 5-[2-(4-fluorobenzyl)benzyloxymethyl]1-triphenylmethyl-4,5,6,7-tetrahydro-1H-benzimidazole | FC1=CC=C(CC2=C(COCC3CC4=C(N(C=N4)C(C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)CC3)C=CC=C2)C=C1 | C41H37FN2O
reactant | 5-[2-(4-fluorobenzyl)benzyloxymethyl]-3-triphenylmethyl-4,5,6,7-tetrahydro-3H-benzimidazole | 1.0 mmol, 0.62 g | FC1=CC=C(CC2=C(COCC3CC4=C(N=CN4C(C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)CC3)C=CC=C2)C=C1 | C41H37FN2O
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl acetate | 2.1 mmol, 0.6 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 0.6 ml | O | H2O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 5-[2-(4-Fluorobenzyl)benzyloxymethyl]-4,5,6,7-tetrahydro-1H-benzimidazole | FC1=CC=C(CC2=C(COCC3CC4=C(NC=N4)CC3)C=CC=C2)C=C1 | C22H23FN2O
